US07632850B2
10.1. (4-isoquinolin-4-ylphenyl)methanol
Under an argon atmosphere, a mixture of 1.09 g (7.2 mmol) of (4-hydroxymethyl)phenylboronic acid, 1.24 g (6 mmol) of 4-bromoisoquinoline and 0.28 g (0.24 mmol) of palladium tetrakis(triphenylphosphine) in 50 ml of toluene and 10 ml of aqueous sodium carbonate solution (2M) is heated at reflux overnight. The filtrate is concentrated under reduced pressure and the residue is taken up in 150 ml of ethyl acetate and 40 ml of water. After the phases have settled and been separated, the organic phase is washed in succession with 20 ml of water and 20 ml of saturated aqueous sodium chloride solution. It is dried over sodium sulphate and the filtrate is concentrated under reduced pressure. The residue is purified by chromatography on silica gel, eluting with a 60/40 then 40/60 mixture of cyclohexane and ethyl acetate. This gives 1.12 g of a white solid.

reactant | 4-bromoisoquinoline | 6 mmol, 1.24 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | sodium carbonate | 2M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis(triphenylphosphine) | 0.24 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | (4-isoquinolin-4-ylphenyl)methanol | C1=NC=C(C2=CC=CC=C12)C1=CC=C(C=C1)CO | C16H13NO
